US07138533B2
5-Chloro-1-(1H-indol-3-yl)-1-pentanone
Using indole (1.00 g) and 5-chlorovaleryl chloride (1.68 ml) according to the same method as that of Reference Example 1, the title compound (1.55 g) was obtained as colorless crystals having a melting point of 165 to 167° C.

reactant | indole | 1.00 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 5-chlorovaleryl chloride | 1.68 ml | ClCCCCC(=O)Cl | C5H8Cl2O
product | 5-Chloro-1-(1H-indol-3-yl)-1-pentanone | 1.55 g | ClCCCCC(=O)C1=CNC2=CC=CC=C12 | C13H14ClNO
